US06211241B1
(a) 1,2,3,4-Tetrahydro-2-naphthalencarboxylic acid[6-(2-aminobenzenesulfonylamino)-hexyl]-amide
To a solution of 1,2,3,4-Tetrahydro-2-naphthalencarboxylic acid[6- (2-nitrobenzenesulfonylamino)-hexyl]-amide (0.54 g, 1.17 mmol) in 5 mL of glacial acetic acid stirred at 0° C. was added a solution of tin chloride (1.32 g, 5.88 mmol)in 5 mL conc. HCl and 1 mL of water. The reaction mixture was warmed to room temperature and stirred for 3 h and poured over crushed ice (50 g). The reaction mixture was neutralized with 10% sodium hydroxide and extracted with chloroform (5×50 mL), dried over sodium sulfate and concentrated to afford yellow oil (0.48 g, 95%).

reactant | 1,2,3,4-Tetrahydro-2-naphthalencarboxylic acid[6- (2-nitrobenzenesulfonylamino)-hexyl]-amide | 1.17 mmol, 0.54 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCCCCCNC(=O)C1CC2=CC=CC=C2CC1 | C23H29N3O5S
reactant | tin chloride | 5.88 mmol, 1.32 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 5 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 1,2,3,4-Tetrahydro-2-naphthalencarboxylic acid[6-(2-aminobenzenesulfonylamino)-hexyl]-amide | 0.48 g, 95% | NC1=C(C=CC=C1)S(=O)(=O)NCCCCCCNC(=O)C1CC2=CC=CC=C2CC1 | C23H31N3O3S
